US08471005B2
2-Methoxypyridine-5-boronic acid (116 mg, 0.758 mmol), Tetrakis(triphenylphosphine)palladium(0) (46 mg, 0.040 mmol) and 5-Chloro-7-iodo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.152 g, 0.467 mmol) were placed in a vial, followed by 1,4-Dioxane (3.00 mL) and 2.00 M of Sodium carbonate in Water (1.00 mL, 2.00 mmol). The sample was frozen, placed under vacuum, sealed, warmed, refrozen, evacuated, then placed under nitrogen and heated in a 60° C. block. When complete, the sample was partitioned between EtOAc and water (30 mL each), the aq. extracted (EtOAc 3×20 mL) and the comb. organics washed with brine. Purification (ISCO, 12 g, 0-30% EtOAc:Hex) afforded 5-Chloro-7-(6-methoxy-pyridin-3-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.116 g, 81%).

reactant | 2-Methoxypyridine-5-boronic acid | 0.758 mmol, 116 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | 5-Chloro-7-iodo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.467 mmol, 0.152 g | ClC=1C=C(N2N=C(N=CC21)SC)I | C7H5ClIN3S
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 2.00 mmol, 1.00 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.040 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-Dioxane | 3.00 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-7-(6-methoxy-pyridin-3-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.116 g, 81% | ClC=1C=C(N2N=C(N=CC21)SC)C=2C=NC(=CC2)OC | C13H11ClN4OS
